US04788195
N-[4-(4-Pyridinyl)-2-pyrimidinyl]-1,4-benzenediamine, hydrochloride
A 2.85 g amount of N-[4-[[4-(4-pyridinyl)-2-pyrimidinyl]amino]phenyl]acetamide was added to a mixture of 10 ml of concentrated hydrochloric acid and 10 ml of water. The reaction mixture was heated at reflux for 90 minutes, then evaporated in vacuo to obtain a solid. The solid was recrystallized from 3A ethanol/water and gave 2.31 g of the desired product as a yellow crystalline solid, mp 292°-295° C.

reactant | N-[4-[[4-(4-pyridinyl)-2-pyrimidinyl]amino]phenyl]acetamide | N1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)NC(C)=O | C17H15N5O
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | N-[4-(4-Pyridinyl)-2-pyrimidinyl]-1,4-benzenediamine, hydrochloride | 2.31 g | Cl.N1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)N | InChI=1S/C15H13N5.ClH/c16-12-1-3-13(4-2-12)19-15-18-10-7-14(20-15)11-5-8-17-9-6-11;/h1-10H,16H2,(H,18,19,20);1H
